US05624943
1.02 g of cesium carbonate is added to a solution of 300 mg of 3-(3-hydroxy-2-pyridyl)-propionic acid methyl ester and 450 mg of (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene in 6 ml of dimethylformamide, and the suspension is stirred under argon atmosphere for 20 hours at room temperature. The reaction mixture is filtered, the filter residue is washed with dichloromethane and the filtrate is concentrated by evaporation. The residue is added to water, shaken out with ethyl acetate, the organic phase is washed with saturated common salt solution, dried with sodium sulfate and concentrated by evaporation. The crude product is purified by high-pressure liquid chromatography on reversed-phase silica gel (Nova-Pak HR C18) with methanol/water=8/2. 280 mg of 3-{3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester is obtained as colorless oil.

reactant | cesium carbonate | 1.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(3-hydroxy-2-pyridyl)-propionic acid methyl ester | 300 mg | COC(CCC1=NC=CC=C1O)=O | C9H11NO3
reactant | (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene | 450 mg | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-{3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 280 mg | COC(CCC1=NC=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)=O | C22H27NO4
